US07947676B2
((2S)-1-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}pyrrolidin-2-yl)methanol
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and (S)-2-pyrrolidinemethanol to give the title compound in 41% yield; NMR Spectrum: 1.49-1.53 (m, 1H), 1.60-1.66 (m, 2H), 1.77-1.82 (m, 1H), 2.33-2.36 (m, 1H), 2.58 (br s, 1H), 2.77-2.79 (m, 1H), 3.13-3.15 (m, 1H), 3.26-3.29 (m, 2H), 3.37-3.41 (m, 1H), 4.39 (t, 2H), 4.44 (br s, 1H), 5.28 (s, 2H), 7.24 (d, 1H), 7.36 (t, 1H), 7.56 (s, 1H), 7.58 (s, 1H), 7.87 (t, 1H), 7.93 (d, 1H), 8.29 (s, 1H), 8.40 (s, 1H), 8.59 (d, 1H); Mass Spectrum: 496 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | (S)-2-pyrrolidinemethanol | N1[C@@H](CCC1)CO | C5H11NO
product | ((2S)-1-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}pyrrolidin-2-yl)methanol | 41% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2[C@@H](CCC2)CO | C24H26ClN7O3
